US08536168B2
1,4-dichloro-6-(4-methoxybenzyl)-6,7-dihydro-5H-pyrrolo[3,4-d]pyridazine (Compound 42)
To a suspension of 4,5-bis(bromomethyl)-3,6-dichloropyridazine (800 mg, 2.39 mmol) in 40 mL anhydrous THF was added with sodium carbonate (507 mg, 4.78 mmol) and tetrabutylammonium iodide (88.3 mg, 0.24 mmol). The reaction mixture was added with 4-methylbenzylamine (0.31 mL, 2.39 mmol) in 20 mL THF dropwisely for 2 h. The reaction mixture was heated at 70° C. for 8 h and concentrated. The crude material was dissolved in DCM and washed with water and brine. The organic solution was dried over Na2SO4 and concentrated to afford a crude oil. The mixture was purified by flash chromatography on silica gel, eluting with 10-80% EtOAc:heptane to afford a off-white solid (300 mg, yield: 41%).

reactant | 4,5-bis(bromomethyl)-3,6-dichloropyridazine | 2.39 mmol, 800 mg | BrCC1=C(N=NC(=C1CBr)Cl)Cl | C6H4Br2Cl2N2
reactant | sodium carbonate | 4.78 mmol, 507 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methylbenzylamine | 2.39 mmol, 0.31 mL | CC1=CC=C(CN)C=C1 | C8H11N
reactant | heptane | CCCCCCC | C7H16
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.24 mmol, 88.3 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,4-dichloro-6-(4-methoxybenzyl)-6,7-dihydro-5H-pyrrolo[3,4-d]pyridazine | 300 mg, yield: 41% | ClC1=NN=C(C2=C1CN(C2)CC2=CC=C(C=C2)OC)Cl | C14H13Cl2N3O
